US07067537B2
Production of 3-[5-chloro-4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]-N,N-dimethylbenzamide
To a solution of 3-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]-N,N-dimethylbenzamide (400 mg) in DMF (2 ml) was added trichloroisocyanuric acid (120 mg) and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with aqueous sodium hydrogen carbonate-ethyl acetate. The organic layer was separated and washed with water, aqueous sodium hydrogen carbonate and saturated brine. The organic layer was dried and concentrated, and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1–0:1) for purification to give the title compound (140 mg) as a colorless amorphous compound.

reactant | 3-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]-N,N-dimethylbenzamide | 400 mg | CC1=C(C=NC=C1)C=1N=C(SC1)C=1C=C(C(=O)N(C)C)C=CC1 | C18H17N3OS
reactant | trichloroisocyanuric acid | 120 mg | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogen carbonate ethyl acetate | C(O)([O-])=O.[Na+].C(C)(=O)OCC
product | 3-[5-chloro-4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]-N,N-dimethylbenzamide | 140 mg | ClC1=C(N=C(S1)C=1C=C(C(=O)N(C)C)C=CC1)C=1C=NC=CC1C | C18H16ClN3OS
